US08633312B2
2-(2,4-Difluoroanilino)-7-hydroxy-10,11-dihydrodibenzo[a,d]-cyclohepten-5-one (11a)
0.2 g (0.55 mmol) of 2-(2,4-difluoroanilino)-7-methoxy-10,11-dihydrodibenzo[a,d]-cyclohepten-5-one is dissolved in 2 ml of glacial acetic acid, 2 ml of HBr (45%) are added and the mixture is refluxed for 6 h. The solution is hydrolyzed with 200 g of ice and the precipitate is filtered off. The product is obtained in the form of a white powder. C21H15F2NO2 (Mr=351.35)

reactant | 2-(2,4-difluoroanilino)-7-methoxy-10,11-dihydrodibenzo[a,d]-cyclohepten-5-one | 0.55 mmol, 0.2 g | FC1=C(NC2=CC3=C(C(C4=C(CC3)C=CC(=C4)OC)=O)C=C2)C=CC(=C1)F | C22H17F2NO2
reactant | HBr | 2 ml | Br | BrH
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 2-(2,4-Difluoroanilino)-7-hydroxy-10,11-dihydrodibenzo[a,d]-cyclohepten-5-one | FC1=C(NC2=CC3=C(C(C4=C(CC3)C=CC(=C4)O)=O)C=C2)C=CC(=C1)F | C21H15F2NO2
